Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
continuous bleeding after tooth extraction 1 day PTA 
 
Major Surgical or Invasive Procedure:
bone marrow biopsy ___
splenectomy
picc line
exchange of abdominal drain

 
History of Present Illness:
___ yo M w/ hep C cirrhosis s/p OLT in ___, chronic 
thrombocytopenia and recent pan-cytopenia, CRF who presents with 
continuous bleeding (oozing) after a dental extraction. In the 
ED pt. was noted to have a plt count of 11 and was transfused 1 
bag of platelets with some improvement in oozing. He was then 
admitted for further observation and w/u of his pancytopenia. 
This AM he has no specific complaints and his gum bleeding has 
further improved. He does report starting on neurontin on 
___ (by pain clinic) and taking prophylactic abx. (unclear 
which one) starting on ___ prior to his dental procedure.  

.  
ROS: no recent f/c, weight loss, SOB. Reports rectal pain and 
some blood in stool which is his baseline. Also, c/o of some 
urinary discomfort.  

 
Past Medical History:
# ESLD ___ HCV cirrhosis, s/p OLT on ___  
- c/b biliary strictures w/ Roux en-Y hepaticogjejunostomy 
___  
# h/o polysubstance abuse  
# h/o L ureteral obstruction s/p stent placement ___  
- new stent placed ___ for L hydronephrosis  
# anal fissures/fistulae s/p repair ___  
# hypertension  
# SVT  
# esophagitis  
# cognitive disorder  
# adjustment disorder  
.  
PSH: (per initial H&P)  
# OLT ___ c/b biliary strictures w/ Roux en-Y 
hepaticojejunostomy
# incision hernia repair ___  
# s/p hemorrhoid repair  
# anal fistulectomy in ___ + ___, ___ placement 
___  
# appendectomy  
# cholecystectomy  
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Vitals: T:98.7 BP:118/70 HR:60 RR:20 O2Sat:99% on RA  
GEN: Well-appearing, well-nourished, no acute distress  
HEENT: + blood clots over tooth extraction sites, still with 
small amounts of oozing, dry mucous membranes, EOMI, PERRL, 
sclera anicteric, no epistaxis  
NECK: No JVD, carotid pulses brisk, no bruits, no cervical 
lymphadenopathy, trachea midline  
COR: RRR, II/VI early systolic murmur at LUSB and LLSB 
non-radiating, normal S1 S2, radial pulses +2  
PULM: Lungs CTAB, no W/R/R  
ABD: Soft, NT, ND, +BS, palpable spleen tip, scar from liver 
transplant, no rebound or guarding.  
EXT: No C/C/E, no palpable cords  
NEURO: alert, oriented to person, place, and time. CN II - XII 
grossly intact. No asterixis. moves all 4 extremities. Strength 
___ in upper and lower extremities. Patellar DTR +1. Plantar 
reflex downgoing. No gait disturbance. No cerebellar 
dysfunction.  
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses. 
 

 
Pertinent Results:
___ 04:01PM   WBC-1.2* RBC-3.11* HGB-9.0* HCT-28.8* MCV-93 
MCH-28.9 MCHC-31.2 RDW-17.3*
___ 04:01PM   PLT COUNT-11*
___ 04:01PM   ___ ___
___ 04:01PM   ___ PTT-28.8 ___
___ 04:01PM   GLUCOSE-84 UREA N-46* CREAT-1.4* SODIUM-139 
POTASSIUM-5.7* CHLORIDE-101 TOTAL CO2-29 ANION GAP-15
___ 04:55PM   POTASSIUM-4.5
.
___ 5:47 pm BLOOD CULTURE      Source: Line-R PICC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
.
MRI PELVIS W/O & W/CONTRAST  ___ 9:15 ___

MRI PELVIS W/O & W/CONTRAST

Reason: assess for perirectal abscess. 
Contrast: MAGNEVIST

UNDERLYING MEDICAL CONDITION:
___ year old man s/p liver transplant, rectal fissure surgery, 
fever. 
REASON FOR THIS EXAMINATION:
assess for perirectal abscess. 
CONTRAINDICATIONS for IV CONTRAST: None.

EXAMINATION: MR pelvis.

INDICATION: Status post liver transplant. Rectal fissure 
surgery, fever. Evaluate for perirectal abscess.

COMPARISON: Comparison is made with the previous MR from ___.

TECHNIQUE: Multiplanar T1- and T2-weighted images were acquired 
on a 1.5 Tesla magnet, including dynamic high-resolution 3D 
imaging, obtained prior to, during and after the uneventful 
intravenous administration of 0.1 mmol/kg of gadolinium-DTPA. 2D 
and 3D reformations and subtraction images were performed on an 
independent workstation.

MR PELVIS FINDINGS: In the ___ o'clock position (when viewed 
lithotomy position, left-to-left/posterior) of the 
intersphincteric space situated approximately 2 cm proximal to 
the anus, an area of crescentic high signal intensity is 
identified on the T2-weighted imaging (series 6, image 26) that 
measures 1.5 cm AP x 7 mm TV x 1.5 cm SI, with a peripherally 
enhancing rim, consistent with a tiny abscess too small to 
drain. This is at approximately the level of the levator ani 
(series 105a, image 14), and might communicate inferiorly with 
the rectal canal at the 6:00 location (series 100, image 68), 
approximately 4.5 cm superior from the anal verge.

A thin slip of high signal on T2W images (series 6, image 29), 
with thin curvilinear enhancement extends from this tiny 
collection inferiorly along the intersphincteric space and along 
the expected location of the internal sphincter from the 
___ location until reaching the anal verge, where there is 
thickening of the external sphincter on the left side (series 
104a, image 27). It is unclear if this represents a tract, or 
may be secondary to previous surgery or granulation tissue. This 
lays along the course of the fistula described in ___. No 
definite fluid is seen along this slip. Susceptibility is seen 
along the inferior aspect, similar to images from ___. The 
internal sphincter is hypoenhancing on post- gadolinium images, 
and indistinct but slightly hyperintense on T2W images, again 
possibly due to prior surgery.

There is nonspecific edema and vascular engorgement within the 
perirectal fat.

There are bilateral hydroceles with an inguinal hernia on the 
left containing some peritoneal fat and fluid. Left ureteral 
catheter is seen with pigtail curling within the bladder. 
Bladder is nondistended.

No evidence of any significant lymphadenopathy. The remainder of 
the bowel where visualized is unremarkable. The osseous 
structures where visualized are normal.

2D and 3D reformations provided multiple perspectives for the 
dynamic series.

IMPRESSION:
1. Small intersphincteric abscess from the 3 to 6 o'clock 
location (from lithotomoy position) on the left at the level of 
the levator ani. This may communicate with rectal lumen 
inferiorly, crossing the internal sphincter at the 6 o'clock 
position as described above, but is too small to drain.
2. No drainable abscess.
3. Mild hyperintensity on T2W images, mild enhancement, and 
thickening of left external sphincter along course of previously 
___ MRI) described intersphincteric tract, which may represent 
residual tract, or postoperative or granulation 
tissue--correlate with surgical history.
4. Bilateral hydroceles with left inguinal hernia containing fat 
and peritoneum.
5. Nonspecific edema and engorgement of vessels in perirectal 
fat. This may be due to hepatic disease and collateral portal 
blood flow.
6. Left ureteral stent with pigtail in the bladder. 
 
Brief Hospital Course:
This was a ___ yo M s/p liver transplant in ___, pan-cytopenia, 
splenomegaly who presented with continuous oozing after tooth 
extraction.  Hospital course by problem below:  
Thrombocytopenia - platelet count of 69 on ___.  Platelet count 
on ___ was 14.  Neurontin (started on ___ and 
prophylactic antibiotics ___.  Neurontin was held.  DIC labs 
were negative for chronic DIC.  HIT Ab negative.  Parvovirus B19 
Ab negative. Bone marrow biopsy showed ITP. Prednisone and 
rituxan were not options for therapy given his history of Hep C. 
 The patient underwent two doses of IVIG at 35g, two days apart. 
He experienced only minimal improvement in his platelet counts 
each time, from ___.  He was also transfused platelets on two 
occasions, when his platelets decreased below 10.  he 
experienced only minimal improvement in platelet counts after 
transfusion, from ___.  It was decided that splenectomy would 
be the next best option for him. An abd CT was done on ___ to 
evaluate for splenic vein thrombosis. Findings were significant 
for non-occlusive thrombus adherent to the wall of the main 
portal, splenic, and the tributaries forming the SMV near the 
portosplenic confluence. 

On ___ splenectomy and distal pancreatectomy were performed. 
Surgeon was Dr. ___. Please see operative note for 
further details. A ___ drain was placed. Postop, he was sent 
to the SICU. Pain management was an issue requiring Acute Pain 
service management. He was trasferred out of the SICU to the 
med-surg unit where he continued to have high outputs via the JP 
(~ 3 liters) for which he received IV fluid replacements and 
albumin. Given that he had a distal pancreatectomy, the JP fluid 
was sent for amylase. This was initially 191 on ___, but 
increased to 4170 on ___. A repeat JP amylase on ___ was 2769. 
JP drainage trended down to 40 by ___

Bacteremia: Patient developed fever and leukocytosis on ___.  
He was treated empirically for a neutropenic fever with 
cefepime.  The following day his fever had resolved.  Blood 
cultures grew pan sensitive e.coli. His abx were switched to 
cipro, and his PICC line was removed. A source of his bacteremia 
was thought to be from a perirectal abscess identified on MRI.  
He remained afebrile while on cipro. A general surgery consult 
was obtained with recommendations for an MRI.  A MRI was done 
noting small intersphincteric abscess from the 3 to 6 o'clock 
location (from lithotomoy position) on the left at the level of 
the levator ani. This was non-drainable. Cipro and flagyl were 
recommended for 2 weeks. On ___ CVL was d/c'd for low grade 
temps. 

On ___ he was febrile to 101.2. Blood and urine cultures were 
negative. JP fluid was negative for growth. An abd CT was done 
revealing partially walled-off fluid in the left upper abdomen 
with air locules, interval progression of nonocclusive thrombus 
in the portal system, to a greater degree in the splenic vein 
and left portal vein, moderate left pleural effusion, and left 
nephroureteral stent in stable position, with moderate 
dilatation of the left renal pelvis, which has progressed from 
the prior study. A heparin drip was started. Coumadin was then 
started with goal inr achieved and discontinuation of heparin. 
He was sent home on a coumadin dose of 0.5mg qd with inr to be 
drawn on ___. 

On ___ he spiked a temp to 101.8. Blood and urine cultures were 
again sent with the urine negative and blood cultures negative 
to date. Vanco and Zosyn were started on ___. A CXR 
demonstrated L lung base atelectasis and a small left pleural 
effusion. A CT guided exchange of the drain was done for failure 
of the JP to drain. Upsizing of left abdominal drain as 
described above without immediate complications. Pull back study 
through track failed to demonstrate track communucation with the 
left thorax or left pleural effusion. The drain was upsized. 

Vanco and Zosyn were started on ___. After 3 doses, the zosyn 
was switched to Levaquin. Flagyl was added on ___. He was 
discharged home on Vanco, flagyl and Levaquin with indefinate 
duration pending resolution of fluid collection. He did complain 
of some loose stool which was sent for c.diff x 2. These were 
negative. 
.  
#) Hypertension -diltiazem and atenolol were continued at 25mg 
daily. He received his home doses of lasix (40 qam and 20mg 
qpm). Lower leg edema persisted.   
.  
#) Diabetes - Glargine was discontinued due to persistent low 
glucoses. Humalog sliding scale continued. ___ followed.   
Kcals were ordered for poor po intake and supplements were 
ordered. 
.  
#) Liver transplant - His tacrolimus, lamivudine (tx. liver from 
hep B+ patient), and prednisone were continued. His tacrolimus 
levels were monitored and dose adjusted based on levels.    

___ services were arranged for home as he was discharged with 
the JP in place. A picc line was also present in his Left arm 
for iv vancomycin. 

He was ambulatory with stable vital signs tolerating a regular 
diet at time of discharge. Labs were to be drawn on ___ with 
results fax'd to the Transplant office. Blood cultures from ___ 
finalization were pending (negative to date). 

 
Medications on Admission:
atenolol 50mg PO Q day  
calcium carbonate + vit D2 600mg/400u 1 tab PO Q day  
diltiazem HCL 180mg PO QD  
colace 100mg PO BID  
glargine 12u SC QHS  
HISS  
lamivudine 100mg PO Q day  
lidocaine 4% cream TP TID prn  
methadone 65mg PO Q day  
omeprazole 40mg PO Q day  
prednisone 3mg PO Q day  
risedronate 35mg PO Q week  
sertraline 50mg PO Q day  
tacrolimus 1.5mg PO BID  
testosterone 100mg TP Q day  
white petrolatum TP BID prn  
Trazodone 150mg qHS  
neurontin 100 TID  
 
Discharge Medications:
1. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
2. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
4. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. Risedronate 35 mg Tablet Sig: One (1) Tablet PO ___ ().  
8. Testosterone 1 %(50 mg/5 gram) Gel in Packet Sig: One (1)  
Transdermal bid ().  
9. Methadone 10 mg Tablet Sig: Seven (7) Tablet PO DAILY 
(Daily): total of 75mg qd. took ___.  
10. Methadone 5 mg Tablet Sig: One (1) Tablet PO once a day: 
total of 75mg qd. took ___.  
11. Polyvinyl Alcohol 1.4 % Drops Sig: ___ Drops Ophthalmic PRN 
(as needed).  
12. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime): both eyes.  
13. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
14. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
17. Insulin Lispro 100 unit/mL Solution Sig: follow sliding 
scale  Subcutaneous qid per sliding scale.
Disp:*1 bottle* Refills:*0*
18. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed for sleep.
Disp:*60 Tablet(s)* Refills:*0*
19. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).
Disp:*42 Tablet(s)* Refills:*0*
20. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).
Disp:*14 Tablet(s)* Refills:*0*
21. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
22. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
23. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
24. Warfarin 1 mg Tablet Sig: half  Tablet PO qd (Once).  
25. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
26. Sodium Chloride 0.9 % 0.9 % Syringe Sig: Ten (10) ML 
Injection DAILY (Daily) as needed: and after antibiotic.
Disp:*60 ML(s)* Refills:*0*
27. Heparin Lock Flush (Porcine) 100 unit/mL Syringe Sig: Two 
(2) ML Intravenous DAILY (Daily) as needed: following saline 
after antibiotic infusion.
Disp:*60 ML(s)* Refills:*0*
28. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1) 
gram Intravenous once a day.
Disp:*14 doses* Refills:*0*
29. Outpatient Lab Work
Labs ___ for cbc, chem 10, ast, alt, alk phos, t.bili, 
albumin, trough prograf, ___
Then labs every ___ and ___ for cbc, chem 10, lfts, 
___, trough prograf and trough vanco level
fax to ___
30. Glucometer
Free Syle Lite
31. Lancets
1 box
Refill: 1
32. Test Strips
Free Style Lite
1 box
Refill: 1
33. Insulin
syringes-lo dose for qid sliding scale insulin
1 box
refill: 1
34. Alcohol
pads
1 box
refill: 1
35. Methadone
Received 75mg on ___ at 6am 
36. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
37. LUQ abdominal drain Flushes
Normal saline 0.9% prefilled 10cc syringes for LUQ abdominal 
drain tid
Supply: 60
Refill: 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
thrombocytopenia
portal vein thrombus
s/p liver transplant
splenomegaly
h/o substance abuse on methadone
HTN
DM
Portal vein thrombus

 
Discharge Condition:
stable

 
Discharge Instructions:
Call ___ if you have fevers, chills, nausea, vomiting, 
abdominal distension, incision redness/bleeding, drainage, 
bleeding, easy bruising, chest pain, shortness of breath, bloody 
stools, dizziness, or any other concerns.
.
Please take all medications as directed.
No heavy lifting
No driving while taking pain medication. 
.
You received methadone 75 mg on the day of discharge.
 
Followup Instructions:
___